2195-10-06 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -pt with episode of hypotension after initiation of sedation overnight.
   SBP dropped to 50
s, was given 500cc NS bolus and 0.4mg narcan.  The
   patient
s BP responded.
   - called by radiology that CVL is in vertebral vein
 line was pulled
   - pt placed on 5/0 in preparation for possible extubation this AM
 INVASIVE VENTILATION - START [**2195-10-6**] 03:00 AM
 ARTERIAL LINE - START [**2195-10-6**] 03:15 AM
 MULTI LUMEN - START [**2195-10-6**] 03:15 AM
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2195-10-6**] 03:15 AM
   Fentanyl - [**2195-10-6**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt intubated
   Flowsheet Data as of  [**2195-10-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 104 (103 - 135) bpm
   BP: 86/45(59) {49/34(39) - 207/115(152)} mmHg
   RR: 16 (12 - 17) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 8 (8 - 16)mmHg
   Total In:
                                                                  9,180 mL
   PO:
   TF:
   IVF:
                                                                  7,680 mL
   Blood products:
                                                                  1,500 mL
   Total out:
                                                                      0 mL
                                                                  3,845 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
   Drains:
                                                                    210 mL
   Balance:
                                                                      0 mL
                                                                  5,335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/43/147//0
   Ve: 6.6 L/min
   PaO2 / FiO2: 294
   Physical Examination
   GEN: Intubated
   HEENT: PERRL, sclera anicteric, MMM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, 3/6 SEM > RUSB-late peaking, normal S1/S2,radial pulses +2
   PULM: Intubated, Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: R hip in abduction pillow. 2 drains at surgical site. Feet cool
   but pulses 2+ b/l. No edema.
   SKIN: No jaundice or rash
   Labs / Radiology
   149
   11.4
   31.1
   19.3
        [image002.jpg]
                            [**2195-10-6**]  03:30 AM
   TCO2
   26
   Assessment and Plan
   Assesment: This is an 84 year-old female with a history of mod-severe
   AS (valve area 0.8-1.0), mild COPD, pulm HTN, osteoporosis s/p repair
   of periprosthetic fracture of the right femur.
   .
   Plan:
   # Right periprosthetic femur fracture: s/p surgical repair today (R THA
   Femoral component w/ fixation R femur)
   - Lovenox initiated for DVT PPX
   - ABX for 24 hr - Ancef
   - Hip abduction pillow/brace
   - pain control
   - repeat hip/femur X-ray [**10-7**]
   - Monitor uop
   .
   #Respiratory Failure: pt intubated, but neurologically active.  Pt has
   been given >8L fluids intra-op and post-op.  Pt with history of severe
   AS and given volume status may be difficulty weaning from vent.
   However, CXR this AM did not show increasing pulmonary edema. RSBI was
   <100 today.  Pt was placed on 5/0 and tolerating.
   - will attempt to wean and extubate this AM
   - will have BiPap ready  at bedside
   - pull ET tube back 3-4 cm if not extubated today.
   .
   #Hypotension:  Pt with continued intermittent hypotension throughout
   the night and evening.  Given hx of AS ventilation could be
   contributing to decreased pre-load and hypotension.  Additionally, pt
   could be volume depleted post-op and sedation could contribute to
   hypotension.
   - Will monitor and bolus with IV fluids
   - will have dobutamine and neo ready at bedside if pt becomes pressor
   dependent
   .
   # Aortic Stenosis (Mod-severe - valve area 0.8-1.0cmsq): Seen by
   cardiology pre-op. Received pRBC transfusion prior to surgery,
   b-blocker continued perioperatively. Did well during surgery w/ CVP
   7-10 and SBP 100-110 without need for pressors. Will likely cont. to
   require volume. Long term plan for elective AV replacement.
   - Cont. to maintain CVP > 7, MAP > 65, bolus as needed
   - Per cards, if pressors needed would use phenylephrine
   - Cont. aspirin
   - F/u cards recs
   .
   # COPD - Mild by PFTs. Poor respiratory reserve felt to be secondary to
   AS/cardiac
   - cont. Flovent, prn albuterol
   .
   # Osteoporosis
   - VitD/Ca post-op and cont. bisphosphonate
   .
   # Anemia: Approx 2L EBL, 6 u pRBCs given in OR. Lasix with blood
   transfusions as needed peri-operatively per cards
   - Monitor CRIT
   .
   # GERD
   - Continue PPI
   .
   # FEN: Cardiac diet, monitor volume status closely given AS, replete
   lytes prn
   .
   # PPX: Lovenox post-op, bowel regimen, PPI
   .
   # Access: R subclavian will be pulled due to line being in vertebral
   vein., A-line, PIV x 2
   .
   # Code: full code per medical record, will confirm with family in am
   .
   # Comm: [**Name (NI) 1384**] [**Last Name (NamePattern1) 2884**] (daughter): ([**Telephone/Fax (1) 2885**]
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-10-6**] 03:10 AM
   Arterial Line - [**2195-10-6**] 03:15 AM
   Multi Lumen - [**2195-10-6**] 03:15 AM
   18 Gauge - [**2195-10-6**] 03:30 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU

2195-10-07 07:02:00 Physician Resident Progress Note
Chief Complaint: s/p repair of periprosthetic fracture of the right
   femur
   24 Hour Events:
   - RIJ placed
   - Hypotensive requiring phenylephrine. UOP >30cc/hr. Mentating well.
   Neo stopped for 3 hour until 7p with MAPs in the 50s, 250cc bolus
   failed, restarted neo
   - While off of neo, hypotension was in distributive pattern (90/30s).
   Blood cultures, UA and culture ordered.
   - Neo requirement slightly increased overnight from 0.5 to
   0.7mcg/kg/min
   - UOP ~30cc/hr
 MULTI LUMEN - STOP [**2195-10-6**] 08:46 AM
 INVASIVE VENTILATION - STOP [**2195-10-6**] 11:55 AM
 MULTI LUMEN - START [**2195-10-6**] 04:48 PM
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2195-10-6**] 11:00 PM
   Pantoprazole (Protonix) - [**2195-10-6**] 11:00 PM
   Morphine Sulfate - [**2195-10-7**] 05:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: Foley
   Neurologic: No(t) Numbness / tingling
   Pain: [**2-17**] Mild
   Pain location: pain well controlled
   Flowsheet Data as of  [**2195-10-7**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 86 (82 - 111) bpm
   BP: 120/49(77) {72/37(52) - 136/93(99)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 99% 4L NC
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 9 (7 - 14)mmHg
   Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                 11,525 mL
                                                                    468 mL
   PO:
   TF:
   IVF:
                                                                 10,025 mL
                                                                    468 mL
   Blood products:
                                                                  1,500 mL
   Total out:
                                                                  4,782 mL
                                                                    415 mL
   Urine:
                                                                    622 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
                                                                    660 mL
                                                                    200 mL
   Balance:
                                                                  6,743 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 790 (718 - 790) mL
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 5 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), III/VI
   SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed,
   LE strength in feet [**4-20**], pt in ortho hip pillow
   Labs / Radiology
   169 K/uL
   8.2 g/dL
   102 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   11 mg/dL
   103 mEq/L
   135 mEq/L
   23.1 %
   17.0 K/uL
        [image002.jpg]
                            [**2195-10-6**]  03:30 AM
                            [**2195-10-6**]  06:15 AM
                            [**2195-10-6**]  01:25 PM
                            [**2195-10-6**]  09:39 PM
                            [**2195-10-7**]  04:47 AM
   WBC
   19.3
   18.4
   17.0
   Hct
   31.1
   29.8
   25.0
   23.1
   Plt
   149
   179
   169
   Cr
   0.4
   0.4
   TropT
   <0.01
   TCO2
   26
   Glucose
   138
   102
   Other labs: CK / CKMB / Troponin-T:890/8/<0.01, Differential-Neuts:82.6
   %, Lymph:7.5 %, Mono:9.5 %, Eos:0.2 %, Albumin:2.1 g/dL, Ca++:7.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Microbiology: Blood & Urine Cx-Pending
   Assessment and Plan
   Assesment: This is an 84 year-old female with a history of mod-severe
   AS (valve area 0.8-1.0), mild COPD, pulm HTN, osteoporosis s/p repair
   of periprosthetic fracture of the right femur.
   .
   Plan:
   # Right periprosthetic femur fracture: s/p surgical repair today (R THA
   Femoral component w/ fixation R femur)
   - Lovenox initiated for DVT PPX
   - Hip abduction pillow/brace
 PT to fit brace today
   - pain control (Morphine prn - 7mg total in 24hrs)
   - repeat hip/femur X-ray [**10-7**]
   - Monitor uop -->goal >30cc/hr,  bolus prn
   .
   #Respiratory Failure: pt sucessfully extubated. LOS fluid blance is
   +7L.  Pt currenlty on 4L NC.  Pt with history of severe AS and given
   volume status respiratory stauts my be complicated by pulmonary edema.
   However, pt appears comfortable and satting well.
   - will attempt to wean O2 as tolerated
   - consider lasix prn if SOB for new O2 requirement
   .
   #Hypotension:  Pt with continued hypotension and slightly increased neo
   requirement overnight to 0.7.  Additionally, pt is prelaod dependent
   given AS. Pt could still be volume depeted post-op.  Still has low
   urine output. Pt no obvious signs of infection, had been afebrile and
   cultures NGTD.  Pt with leukocytosis post-op --> trending down
   (however, could be dilutional) and reactive due to surgery. No evidence
   of MI on EKG and CE negative.  Pt with limited pain medications, but
   could aslo be contributing to hypotension.
   - attempt to wean neo
   - will give 1U pRBC
   - Will monitor and bolus with IV fluids
   - t/c adding dobutamine if becomes more hypotensive.
   - f/u cards recs
   - hold on any antibiotics for now
 f/u blood cx & urine cx
   - hold BB and other hypertensive meds given hypotension
   .
   # Aortic Stenosis (Mod-severe - valve area 0.8-1.0cmsq): Seen by
   cardiology pre-op. Received pRBC transfusion prior to surgery,
   b-blocker continued perioperatively. Did well during surgery w/ CVP
   7-10 and SBP 100-110.  Currently, however is on neo.  Long term plan
   for elective AV replacement.
   - plan as above for hypotension
   - Cont. to maintain CVP > 7, MAP > 65, bolus as needed
   - Cont. aspirin
   - F/u cards recs
   .
   # Anemia: Approx 2L EBL, 6 u pRBCs given in OR. Hct today is 23.1.
   Will plan to transfuse today.
   - transfuse 1U pRBC with possible lasix
   - transfusion goal Hct >25
   - Monitor CRIT
   .
   # COPD - Mild by PFTs. Poor respiratory reserve felt to be secondary to
   AS/cardiac
   - cont. Flovent, prn albuterol
   .
   # Osteoporosis
   - VitD/Ca post-op and cont. bisphosphonate
   .
   # GERD
   - Continue PPI
   .
   # FEN: Cardiac diet, monitor volume status closely given AS, replete
   lytes prn
   .
   # PPX: Lovenox post-op, bowel regimen, PPI
   .
   # Access: RIJ placed yesterday., A-line, PIV x 2
   .
   # Code: full code per medical record, will confirm with family in am
   .
   # Comm: [**Name (NI) 1384**] [**Last Name (NamePattern1) 2884**] (daughter): ([**Telephone/Fax (1) 2885**]
   .
   # Dispo: ICU care
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2195-10-6**] 03:15 AM
   18 Gauge - [**2195-10-6**] 03:30 AM
   20 Gauge - [**2195-10-6**] 02:23 PM
   Multi Lumen - [**2195-10-6**] 04:48 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2195-10-08 07:03:00 Physician Resident Progress Note
Chief Complaint: Revision R THA / ORIF peri-prosthetic femur fx
   24 Hour Events:
   - Weaned off pressors at 11am
   - Urine output 20-30cc/hour, increased with improved PO intake
   - Given 1U pRBCs with appropriate hematocrit rise and given 1U pRBC
   this AM
   - Repeat CVO2 65%
   - Pt had Pt and brace fitting
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2195-10-8**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t)
   Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Neurologic: No(t) Numbness / tingling
   Pain: [**12-17**] Minimal
   Pain location: well controlled
   Flowsheet Data as of  [**2195-10-8**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 104 (80 - 104) bpm
   BP: 129/60(89) {99/41(63) - 147/111(117)} mmHg
   RR: 23 (8 - 24) insp/min
   SpO2: 95% (2L)
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 18 (7 - 18)mmHg
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  1,997 mL
                                                                     66 mL
   PO:
                                                                    770 mL
   TF:
   IVF:
                                                                    852 mL
                                                                     66 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,128 mL
                                                                    245 mL
   Urine:
                                                                    768 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
                                                                    360 mL
                                                                     15 mL
   Balance:
                                                                    869 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), III/VI
   SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   140 K/uL
   8.6 g/dL
   95 mg/dL
   0.3 mg/dL
   27 mEq/L
   4.3 mEq/L
   8 mg/dL
   101 mEq/L
   134 mEq/L
   24.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2195-10-6**]  03:30 AM
                            [**2195-10-6**]  06:15 AM
                            [**2195-10-6**]  01:25 PM
                            [**2195-10-6**]  09:39 PM
                            [**2195-10-7**]  04:47 AM
                            [**2195-10-7**]  04:34 PM
                            [**2195-10-8**]  04:12 AM
   WBC
   19.3
   18.4
   17.0
   9.8
   Hct
   31.1
   29.8
   25.0
   23.1
   25.4
   24.3
   Plt
   149
   179
   169
   140
   Cr
   0.4
   0.4
   0.3
   TropT
   <0.01
   TCO2
   26
   Glucose
   138
   102
   95
   Other labs: PT / PTT / INR:12.8/29.5/1.1, CK / CKMB /
   Troponin-T:890/8/<0.01, Differential-Neuts:82.6 %, Lymph:7.5 %,
   Mono:9.5 %, Eos:0.2 %, Albumin:2.1 g/dL, Ca++:7.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Assesment: This is an 84 year-old female with a history of mod-severe
   AS (valve area 0.8-1.0), mild COPD, pulm HTN, osteoporosis s/p repair
   of periprosthetic fracture of the right femur.
   .
   Plan:
   # Right periprosthetic femur fracture: s/p surgical repair today (R THA
   Femoral component w/ fixation R femur)
   - Lovenox initiated for DVT PPX
   - Hip abduction pillow/brace and PT
   - pain control (Morphine prn - 10mg total in 24hrs)
   - repeat hip/femur X-ray [**10-8**]
   - Monitor uop -->goal >30cc/hr
   .
   #Respiratory Failure: pt sucessfully extubated. LOS fluid blance is
   +7.4L.  Pt currenlty on 2L NC today and back to baseline home O2
   requirement.  Pt with history of severe AS and given volume status
   respiratory stauts my be complicated by pulmonary edema.  However, pt
   appears comfortable and satting well.
   - will attempt to wean O2 as tolerated
   - consider lasix prn if SOB for new O2 requirement
   .
   #Hypotension:  Pt weaned off neo yesterday.  Pressures have been SBP
   110-120's.  Still has low urine output (~30cc/hr). Pt no obvious signs
   of infection, had been afebrile and cultures NGTD.  Pt leukocytosis
   post-op has resolved.  No evidence of MI on EKG and CE negative.  Pt
   with limited pain medications, but could aslo be contributing to
   hypotension.
   - Will monitor and bolus with IV fluids
   - f/u cards recs
   - will restart hypertensive meds when stable
   .
   # Aortic Stenosis (Mod-severe - valve area 0.8-1.0cmsq): Seen by
   cardiology pre-op. Received pRBC transfusion prior to surgery,
   b-blocker continued perioperatively.   Long term plan for elective AV
   replacement.
   - plan as above
   - Cont. to maintain CVP > 7, MAP > 65, bolus as needed
   - Cont. aspirin
   - F/u cards recs
   .
   # Anemia: Approx 2L EBL. Hct today is 24.3, received 1U pRBC
   yesterday.  Will plan to transfuse today 1U pRBC today.
   - transfuse 1U pRBC over 4 hrs with possible lasix
   - check post-trasnfusion Hct
   - transfusion goal Hct >25
   - Monitor CRIT
   .
   # COPD - Mild by PFTs. Poor respiratory reserve felt to be secondary to
   AS/cardiac
   - cont. Flovent, prn albuterol
   .
   # Osteoporosis
   - VitD/Ca and cont. bisphosphonate when out of the ICU
   .
   # GERD
   - Continue PPI
   .
   # FEN: Cardiac diet, monitor volume status closely given AS, replete
   lytes prn
   .
   # PPX: Lovenox post-op, bowel regimen, PPI
   .
   # Access: RIJ placed yesterday., A-line, PIV x 2
   - will pull A-line when pt goes to floor
   .
   # Code: full code per medical record, will confirm with family in am
   .
   # Comm: [**Name (NI) 1384**] [**Last Name (NamePattern1) 2884**] (daughter): ([**Telephone/Fax (1) 2885**]
   .
   # Dispo: Pt can be called out to ortho if hemodynamically stable
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2195-10-6**] 03:15 AM
   18 Gauge - [**2195-10-6**] 03:30 AM
   20 Gauge - [**2195-10-6**] 02:23 PM
   Multi Lumen - [**2195-10-6**] 04:48 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2195-10-08 11:01:00 Physician Attending Progress Note
Chief Complaint: Post-op observation
   HPI:
   84F s/p othopedic left hip fixation; admitted to ICU for post op
   observation because of severe AS; subsequent hypotension that has since
   resolved.
   24 Hour Events:
   Her pressors were weaned yesterday and she has remained hemodynamically
   stable overnight.  Overall, she is doing well overnight with adequate
   pain control.  She is without complaint this morning.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2195-10-8**] 04:41 AM
   Other medications:
   Albuterol
   ASA
   Colace
   Calcium
   Vitamin D
   Celexa
   Lovenox 40mg sq
   Fluticasone
   Risendronate
   PPI
   Oxycodone prn
   Zofran prn
   MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-10-8**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 91 (82 - 104) bpm
   BP: 125/55(83) {99/41(63) - 147/99(103)} mmHg
   RR: 19 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 11 (7 - 18)mmHg
   Mixed Venous O2% Sat: 65 - 65
                              Total In:
                                                                  1,997 mL
                                                                    521 mL
   PO:
                                                                    770 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    852 mL
                                                                    109 mL
   Blood products:
                                                                    375 mL
                                                                    363 mL
   Total out:
                                                                  1,128 mL
                                                                    434 mL
   Urine:
                                                                    768 mL
                                                                    419 mL
   NG:
   Stool:
   Drains:
                                                                    360 mL
                                                                     15 mL
   Balance:
                                                                    869 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   General Appearance: No acute distress
   Chest:
   CV:
   Abd:
   Ext:
   Labs / Radiology
   8.6 g/dL
   140 K/uL
   95 mg/dL
   0.3 mg/dL
   27 mEq/L
   4.3 mEq/L
   8 mg/dL
   101 mEq/L
   134 mEq/L
   24.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2195-10-6**]  03:30 AM
                            [**2195-10-6**]  06:15 AM
                            [**2195-10-6**]  01:25 PM
                            [**2195-10-6**]  09:39 PM
                            [**2195-10-7**]  04:47 AM
                            [**2195-10-7**]  04:34 PM
                            [**2195-10-8**]  04:12 AM
   WBC
   19.3
   18.4
   17.0
   9.8
   Hct
   31.1
   29.8
   25.0
   23.1
   25.4
   24.3
   Plt
   149
   179
   169
   140
   Cr
   0.4
   0.4
   0.3
   TropT
   <0.01
   TCO2
   26
   Glucose
   138
   102
   95
   Other labs: PT / PTT / INR:12.8/29.5/1.1, CK / CKMB /
   Troponin-T:890/8/<0.01, Differential-Neuts:82.6 %, Lymph:7.5 %,
   Mono:9.5 %, Eos:0.2 %, Albumin:2.1 g/dL, Ca++:7.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   84F s/p hip fixation; complicated by post-op hypotension of unclear
   etiology, but most likely related to AS; now hemodynamically stable and
   ready for transfer to floor.
   1.       Hypotension:  Off pressors for 24 hours
 resolved.
   -          Holding BP meds currently, can restart as BP reaches
   baseline
   -          Can d/c arterial line today as she is stable for transfer
   2.       Ortho:  hip immobilized
   -          Plan to return to ortho service today
   -          Post-op pain control
   3.       CV:  Aortic Stenosis
   -          As above, holding cardiovascular regimen until BP proves
   stability
   -          Caution with reduction of preload given AS
   -          Cardiology is following.
   ICU Care
   Nutrition:
   Clear diet, advancing as tolerates
   Glycemic Control:
   Lines:   d/c Aline and central line
   Arterial Line - [**2195-10-6**] 03:15 AM
   18 Gauge - [**2195-10-6**] 03:30 AM
   20 Gauge - [**2195-10-6**] 02:23 PM
   Multi Lumen - [**2195-10-6**] 04:48 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   Code status: Full code
   Disposition :  To floor today
   Total time spent:  35 minutes